US06274735B1
The reaction flask was charged under argon with 250 mg of 10% carbon-palladium (Degussa E-101 N/D), then a solution of 5 g (11.8 mmol) of (3R,4R)-4-(4-benzyloxy-phenyl)-1-((R)-1-phenyl-ethyl)-piperidin-3-ol hydrochloride in 50 mL of methanol and 5 mL water was added. After hydogenation during 6 h at room temperature and normal pressure the catalyst was separated by filtration and washed with methanol. The filtrate was concentrated and the remaining water was azeotropically removed at the rotary evaporator using toluene (3×100 mL) to give 2.7 g of (3R,4R)-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrochloride as white crystals.

reactant | (3R,4R)-4-(4-benzyloxy-phenyl)-1-((R)-1-phenyl-ethyl)-piperidin-3-ol hydrochloride | 11.8 mmol, 5 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1[C@H](CN(CC1)[C@H](C)C1=CC=CC=C1)O
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
catalyst | carbon palladium | 101 N, 250 mg | [C].[Pd]
product | (3R,4R)-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrochloride | 2.7 g | Cl.OC1=CC=C(C=C1)[C@@H]1[C@H](CNCC1)O | InChI=1S/C11H15NO2.ClH/c13-9-3-1-8(2-4-9)10-5-6-12-7-11(10)14;/h1-4,10-14H,5-7H2;1H/t10-,11+;/m1./s1
